US07169778B2
8. 6-(3,5-Dichloropyridin-4-yl)-8-methyl-2-[[4-[2-(diethylamino)ethoxy]-phenyl]amino]-8H-pteridin-7-one
A mixture of 0.465 g (1.4 mmol) of 5-amino-2-[[4-[2-(diethylamino)-ethoxy]-phenyl]amino]-4-(methylamino)pyrimidine, 0.69 g (2.8 mmol) of ethyl 2-(3,5-dichloropyridin-4-yl)-2-oxoacetate, and 0.5 mL of HOAc in 15 mL of 2-methoxyethanol is heated under reflux for 18 hours, and the reaction is worked up as above in 6 to give 0.11 g (15%) of the title compound (Compound 20): mp (MeOH) 179–180.5° C.

reactant | 5-amino-2-[[4-[2-(diethylamino)-ethoxy]-phenyl]amino]-4-(methylamino)pyrimidine | 1.4 mmol, 0.465 g | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCN(CC)CC)NC | C17H26N6O
reactant | ethyl 2-(3,5-dichloropyridin-4-yl)-2-oxoacetate | 2.8 mmol, 0.69 g | ClC=1C=NC=C(C1C(C(=O)OCC)=O)Cl | C9H7Cl2NO3
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | 2-methoxyethanol | 15 mL | COCCO | C3H8O2
product | 6-(3,5-Dichloropyridin-4-yl)-8-methyl-2-[[4-[2-(diethylamino)ethoxy]-phenyl]amino]-8H-pteridin-7-one | 0.11 g, 15% | ClC=1C=NC=C(C1C1=NC=2C=NC(=NC2N(C1=O)C)NC1=CC=C(C=C1)OCCN(CC)CC)Cl | C24H25Cl2N7O2
